US08703758B2
C) tert-butyl 4-(3-oxobutyl)piperidine-1-carboxylate
Methylmagnesium bromide (1 M THF solution, 30 mL) was added dropwise to a solution of tert-butyl 4-{3-[methoxy(methyl)amino]-3-oxopropyl}piperidine-1-carboxylate (4.5 g) in THF (50 mL) under ice-cooling, and the reaction mixture was stirred at room temperature for 3 hr. The reaction mixture was poured into saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound (3.70 g).

reactant | Methylmagnesium bromide | 1 M, 30 mL | C[Mg]Br
reactant | tert-butyl 4-{3-[methoxy(methyl)amino]-3-oxopropyl}piperidine-1-carboxylate | 4.5 g | CON(C(CCC1CCN(CC1)C(=O)OC(C)(C)C)=O)C | C15H28N2O4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(3-oxobutyl)piperidine-1-carboxylate | 3.70 g | O=C(CCC1CCN(CC1)C(=O)OC(C)(C)C)C | C14H25NO3
